US09340556B2
To a solution of 1-ethyl-5-hydroxy-6-((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (1.4 g, 3.79 mmol) in N,N-Dimethylformamide (DMF) (30 mL) was added HATU (1.729 g, 4.55 mmol) and DIPEA (1.655 mL, 9.48 mmol), the resulting mixture was stirred at r.t. for 30 min. Then 2-(pyrrolidin-1-yl)ethanamine (0.656 mL, 4.17 mmol) was added and the resulting mixture was stirred at r.t. for 3 h. The reaction mixture was concentrated and the residue was dissolved in DCM and washed with water, sat. NaHCO3 (aq.) and brine. The organic layer was separated and concentrated, the residue was purified by normal phase silica gel chromatography (CombiFlash), eluting with MeOH/DCM (0-20%) to afford 1-ethyl-5-hydroxy-6-((4-methoxybenzyl)oxy)-4-oxo-N-(2-(pyrrolidin-1-yl)ethyl)-1,4-dihydroquinoline-3-carboxamide (1 g, 2.148 mmol, 56.7% yield) as a yellow solid. LCMS: (M+H)+: 466.3.

reactant | 1-ethyl-5-hydroxy-6-((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 3.79 mmol, 1.4 g | C(C)N1C=C(C(C2=C(C(=CC=C12)OCC1=CC=C(C=C1)OC)O)=O)C(=O)O | C20H19NO6
reactant | HATU | 4.55 mmol, 1.729 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 9.48 mmol, 1.655 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(pyrrolidin-1-yl)ethanamine | 4.17 mmol, 0.656 mL | N1(CCCC1)CCN | C6H14N2
solvent | N,N-Dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-ethyl-5-hydroxy-6-((4-methoxybenzyl)oxy)-4-oxo-N-(2-(pyrrolidin-1-yl)ethyl)-1,4-dihydroquinoline-3-carboxamide | 2.148 mmol, 1 g, 56.7% yield | C(C)N1C=C(C(C2=C(C(=CC=C12)OCC1=CC=C(C=C1)OC)O)=O)C(=O)NCCN1CCCC1 | C26H31N3O5
